US07220862B2
1,4,6,7-Tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester
To a solution of 3-dimethylaminomethylene-4-oxo-piperidine-1-carboxylic acid tert-butyl ester (2.55 g, 10 mmol) in methanol (50 mL) was added hydrazine hydrate (0.61 mL, 1.25 equiv). The solution was heated to reflux, immediately allowed to cool to room temperature, and concentrated to give 1.4 g (63%) which was used without purification. Mass spec.: 224.11 (MH)+.

reactant | 3-dimethylaminomethylene-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 10 mmol, 2.55 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)=CN(C)C | C13H22N2O3
reactant | hydrazine hydrate | 0.61 mL, 1.25 equiv | O.NN
solvent | methanol | 50 mL | CO | CH4O
product | 1,4,6,7-Tetrahydro-pyrazolo[4,3-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(CC1)NN=C2 | C11H17N3O2
